### PR TITLE
Add Erdős Problem 984 (2-colourings with short monochromatic progressions), link the formal proof

### LINKED ISSUE #6404: Erdős Problem 984
### What is the Erdős problem?

https://www.erdosproblems.com/984

Can $\mathbb{N}$ be $2$-coloured such that if $\{a,a+d,\ldots,a+(k-1)d\}$ is a $k$-term monochromatic arithmetic progression then $k\ll_\epsilon a^\epsilon$ for all $\epsilon>0$?

Status: proved (Zach Hunter). A formal proof exists in plby/lean-proofs (`Erdos984.erdos_984`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6404.

### What changed
Adds `FormalConjectures/ErdosProblems/984.lean` with `IsMonochromaticAP c a d k`:
- `erdos_984` (`research solved`, `answer(True)`): there is a 2-colouring of `ℕ` such that every monochromatic `k`-term progression starting at `a` has `k ≪_ε a^ε` (Zach Hunter). Linked to plby/lean-proofs `Erdos984.erdos_984` (Codex and GPT-5.6 Sol; 44 Mathlib-only files).
- Sorry'd variant: Erdős' weaker `k ≪ a^{1-c}` colouring.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos984.erdos_984` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (`Bool` vs `Fin 2` colours):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge984

theorem erdos_984_bridge : type_of% Erdos984.erdos_984 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨color, h⟩ := Erdos984Plby.erdos_984
  refine ⟨fun n => finTwoEquiv.symm (color n), fun ε hε => ?_⟩
  obtain ⟨A, hA, hbound⟩ := h ε hε
  refine ⟨A, hA, fun a d k ha hd hmono => hbound a d k ha hd ?_⟩
  obtain ⟨i, hi⟩ := hmono
  exact ⟨finTwoEquiv i, fun j hj => by rw [← hi j hj, Equiv.apply_symm_apply]⟩

#print axioms Erdos984Plby.erdos_984
#print axioms erdos_984_bridge

end Bridge984
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«984»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/984.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+-/
+
+@[expose] public section
+
+namespace Erdos984
+
+/-- The $k$-term arithmetic progression $\{a,a+d,\ldots,a+(k-1)d\}$ is monochromatic under the
+colouring `c`. -/
+def IsMonochromaticAP (c : ℕ → Fin 2) (a d k : ℕ) : Prop :=
+  ∃ i, ∀ j < k, c (a + j * d) = i
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/984.lean:36]: can we use our AP api from `ForMathlib` here?

File: FormalConjectures/ErdosProblems/984.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/984.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
